US08629270B2
N-[(4aR,7aR)-7a-(2-Thienyl)-4a,5,6,7-tetrahydro-4H-pyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide
A solution of benzyl(4aR,7aR)-2-benzamido-7a-(2-thienyl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazine-6-carboxylate (14 g, 29.3 mmol) in acetonitrile (210 mL) is treated with iodotrimethylsilane (7.53 mL, 52.7 mmol) at room temperature. The solution is stirred for 1 hour and the solvent is evaporated. The residue is quenched with 1 M hydrochloric acid and ethyl acetate and the resulting mixture is filtered through diatomaceous earth. The aqueous layer is separated, neutralized with 50% w/w aqueous solution of sodium hydroxide and extracted with ethyl acetate. The organic extracts are dried over sodium sulfate and concentrated to give the title compound (7.9 g, 78%). ES/MS (m/e): 344 (M+H).

reactant | benzyl(4aR,7aR)-2-benzamido-7a-(2-thienyl)-4,4a,5,7-tetrahydropyrrolo[3,4-d][1,3]thiazine-6-carboxylate | 29.3 mmol, 14 g | C(C1=CC=CC=C1)(=O)NC=1SC[C@H]2[C@@](N1)(CN(C2)C(=O)OCC2=CC=CC=C2)C=2SC=CC2 | C25H23N3O3S2
reactant | iodotrimethylsilane | 52.7 mmol, 7.53 mL | I[Si](C)(C)C | C3H9ISi
solvent | acetonitrile | 210 mL | C(C)#N | C2H3N
product | N-[(4aR,7aR)-7a-(2-Thienyl)-4a,5,6,7-tetrahydro-4H-pyrrolo[3,4-d][1,3]thiazin-2-yl]benzamide | 7.9 g, 78% | S1C(=CC=C1)[C@@]12N=C(SC[C@@H]1CNC2)NC(C2=CC=CC=C2)=O | C17H17N3OS2
